Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
ADMISSION LABS: 
___ 10:53PM BLOOD WBC-4.1 RBC-5.71 Hgb-17.9* Hct-50.8 
MCV-89 MCH-31.3 MCHC-35.2 RDW-12.3 RDWSD-40.2 Plt ___
___ 10:53PM BLOOD Neuts-38.8 ___ Monos-9.9 Eos-7.7* 
Baso-1.7* Im ___ AbsNeut-1.57* AbsLymp-1.67 AbsMono-0.40 
AbsEos-0.31 AbsBaso-0.07
___ 10:53PM BLOOD Plt ___
___ 10:53PM BLOOD Glucose-126* UreaN-10 Creat-1.0 Na-146 
K-3.6 Cl-106 HCO3-23 AnGap-17
___ 10:53PM BLOOD proBNP-<5
___ 10:53PM BLOOD LtGrnHD-HOLD
___ 10:53PM BLOOD

DISCHARGE LABS:
___ 07:53AM BLOOD WBC-4.1 RBC-5.64 Hgb-17.6* Hct-50.4 
MCV-89 MCH-31.2 MCHC-34.9 RDW-12.2 RDWSD-39.9 Plt ___
___ 06:16AM BLOOD Plt ___
___ 07:53AM BLOOD Glucose-114* UreaN-12 Creat-0.7 Na-140 
K-3.5 Cl-100
___ 01:47AM BLOOD cTropnT-<0.01
___ 06:16AM BLOOD %HbA1c-4.9 eAG-94

IMAGING: 
TTE
The left atrial volume index is normal. There is no evidence of 
an atrial septal defect or patent foramen ovale
by 2D/color Doppler or agitated saline at rest and with 
maneuvers. There is normal left ventricular wall
thickness with a normal cavity size. There is suboptimal image 
quality to assess regional left ventricular
function. Quantitative biplane left ventricular ejection 
fraction is 58 % (normal 54-73%). There is no
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size for body size with normal
free wall motion. Tricuspid annular plane systolic excursion 
(TAPSE) is normal. The aortic sinus diameter is
normal for gender with a normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with
a normal descending aorta diameter. There is no evidence for an 
aortic arch coarctation. The aortic valve
leaflets (3) appear structurally normal. There is no aortic 
valve stenosis. There is no aortic regurgitation. The
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is trivial mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal.
There is physiologic tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There
is no pericardial effusion.
IMPRESSION: Suboptimal image quality. No evidence for 
right-to-left intracardiac shunt at rest or
with maneuvers.
MEASUREMENTS:

High res CT chest: Pending formal read but with discussion with 
radiologist, no abnormalities noted on ILD protocol. 

CTA
IMPRESSION: 
1. No evidence of pulmonary embolism or aortic abnormality. 
2. No evidence of pneumonia. 
3. Bibasilar atelectasis with mild bronchial wall thickening 
centrally and in 
the lower lobes, nonspecific. 
4. Mild thickening of the distal esophagus, possibly due to 
under-distention. 

CXR: No evidence of acute cardiopulmonary process.  Low lung 
volumes.
 
Brief Hospital Course:
PATIENT SUMMARY:
==================
___ w/ anxiety and HTN who presented with persistent DOE over 
the past month. Also endorses cough and mild pleurisy. Found to 
be mildly hypoxic and was admitted for further workup. Although 
he was never wheezing, his symptoms and hypoxia resolved with 
nebulizers. As such, we suspect symptoms are caused by asthma 
(more of a cough-variant presentation) that was set off by his 
recent transition to a job with substantially more exposure to 
fumes (laying hot asphalt). He will use Flovent and PRN 
albuterol after discharge. His formal PFTs are still pending at 
time of discharge.  

TRANSITIONAL ISSUES: 
=====================
[] Please follow up on PFTs, when final report is available.
[] Pt discharged with albuterol inhaler and fluticasone inhaler
[] Please consider sleep study as outpatient to evaluate for OSA
[] Please consider further workup for polycythemia (if sleep 
study is negative)
[] Please continue to monitor HTN, consider adding lisinopril 
for better control if needed.

HOSPITAL COURSE BY ISSUE
=====================
# Hypoxic respiratory failure: 
Presenting with SOB and DOE over past month with hypoxia to 
88-91% on RA while in ED. CTA with no PE, pulmonary edema, 
pneumonia, or effusions. SpO2 improved with supplemental O2 
arguing against shunt. High resolution CT chest was also normal. 
TTE was normal. Patient got PFTs on ___, results are pending 
and will need to be followed up. He may have component of 
intermittent asthma in addition to OSA causing chronic shortness 
of breath that could have been exacerbated by a viral URI. He 
was discharged on PRN albuterol inhaler and Flovent. 

# Polycythemia: Suspect secondary polycythemia in the setting of 
hypoxia. Does not smoke cigarettes. Recommend obtaining 
outpatient sleep study for evaluation of OSA. Consider serum EPO 
level further evaluating polycythemia if not improving 

# HTN: Continue amLODIPine 5 mg PO DAILY. Consider adding 
lisinopril 10 if uncontrolled in outpatient setting. 

CHRONIC ISSUES:
===============
# Gout: Continue Allopurinol ___ mg PO DAILY 
# Anxiety: Continue LORazepam 0.5 mg PO DAILY:PRN Anxiety

#CODE: Full (presumed) 
#CONTACT: ___, fiancé, ___
#DISPO: Medicine pending above

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Allopurinol ___ mg PO DAILY 
3. LORazepam 0.5 mg PO DAILY:PRN Anxiety 

 
Discharge Medications:
1.  Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
RX *albuterol sulfate 90 mcg 90 mcg every 6 hours as needed Disp 
#*2 Inhaler Refills:*1 
2.  Fluticasone Propionate 110mcg 2 PUFF IH BID shortness of 
breath 
RX *fluticasone propionate [Flovent HFA] 110 mcg/actuation 110 
mcg twice a day as needed Disp #*2 Inhaler Refills:*0 
3.  Allopurinol ___ mg PO DAILY  
4.  amLODIPine 5 mg PO DAILY  
5.  LORazepam 0.5 mg PO DAILY:PRN Anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute hypoxic respiratory failure
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because had trouble breathing.  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had many tests done and were given medications to help you 
breath. 
- We are still waiting on the final results of your pulmonary 
function tests and will make sure that these are sent to your 
primary care provider. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 

We wish you the best! 

Sincerely, 
Your ___ Team 

 
Followup Instructions:
___